US08957203B2
Step 2: Preparation of 4-methylisoquinoline 2-oxide
To a solution of 4-methylisoquinoline (0.6 g, 4.19 mmol) in DCM (20 ml) was added m-CPBA (2.169 g, 12.57 mmol) at room temperature. The reaction mass was stirred at the same temperature for 18 h. The reaction mass was diluted with DCM and extracted with water. The combined organic layer was dried over anhydrous Na2SO4 and evaporated under reduced pressure to get desired compound (0.65 g, 88%) as a semi solid. The crude compound was taken further without purification.

reactant | 4-methylisoquinoline | 4.19 mmol, 0.6 g | CC1=CN=CC2=CC=CC=C12 | C10H9N
reactant | m-CPBA | 12.57 mmol, 2.169 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-methylisoquinoline 2-oxide | 0.65 g, 88% | CC1=C[N+](=CC2=CC=CC=C12)[O-] | C10H9NO
